US07375227B2
431G. 4-Benzyl-1-{2-[3-(2-methyl-quinolin-4-yl)-ureido]-ethyl}-piperidine-4-carboxylic acid
1-(2-Amino-ethyl)-4-benzyl-piperidine-4-carboxylic acid dihydrochloride (3.35 g, 10 mmol), 1,3-bis-(2-methyl-quinolin-4-yl)-urea (3.43 g, 10 mmol) and TEA (5 mL, 36 mmol) are suspended in THF (50 mL) and heated at reflux for 48 h. The solvent is evaporated and the residue purified by HPLC to provide the title compound.

reactant | 1-(2-Amino-ethyl)-4-benzyl-piperidine-4-carboxylic acid dihydrochloride | 10 mmol, 3.35 g | Cl.Cl.NCCN1CCC(CC1)(C(=O)O)CC1=CC=CC=C1
reactant | 1,3-bis-(2-methyl-quinolin-4-yl)-urea | 10 mmol, 3.43 g | CC1=NC2=CC=CC=C2C(=C1)NC(=O)NC1=CC(=NC2=CC=CC=C12)C | C21H18N4O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4-Benzyl-1-{2-[3-(2-methyl-quinolin-4-yl)-ureido]-ethyl}-piperidine-4-carboxylic acid | C(C1=CC=CC=C1)C1(CCN(CC1)CCNC(=O)NC1=CC(=NC2=CC=CC=C12)C)C(=O)O | C26H30N4O3
